US04304568
Synthesis of 1-phenyl-3-(2,2,6,6-tetramethyl-4-piperidyl)thiourea
Similar techniques can be used for the production of 1-ethyl-3-(2,2,6,6-tetramethyl-4-piperidyl)thiourea and 1-butyl-3-(2,2,6,6-tetramethyl-4-piperidyl)thiourea. See the following two examples.

reactant | 1-ethyl-3-(2,2,6,6-tetramethyl-4-piperidyl)thiourea | C(C)NC(=S)NC1CC(NC(C1)(C)C)(C)C | C12H25N3S
reactant | 1-butyl-3-(2,2,6,6-tetramethyl-4-piperidyl)thiourea | C(CCC)NC(=S)NC1CC(NC(C1)(C)C)(C)C | C14H29N3S
product | 1-phenyl-3-(2,2,6,6-tetramethyl-4-piperidyl)thiourea | C1(=CC=CC=C1)NC(=S)NC1CC(NC(C1)(C)C)(C)C | C16H25N3S
